US08492425B2
A solution of 4-{2-[1-(6-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine (448 mg, 1.22 mmol) in HCl conc. (5 ml) was heated to reflux during 7 hrs, it was cooled and evaporated to dryness in a rotavapor. 375 mg of 4-{2-[1-(6-hydroxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine chlorhydrate were obtained in amorphous solid form that was highly hygroscopic (yield: 79%)

reactant | 4-{2-[1-(6-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine | 1.22 mmol, 448 mg | COC=1C=C2C=CC(=CC2=CC1)N1N=C(C=C1C)OCCN1CCOCC1 | C21H25N3O3
solvent | HCl | 5 ml | Cl | ClH
product | 4-{2-[1-(6-hydroxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine | 375 mg, yield: 79% | OC=1C=C2C=CC(=CC2=CC1)N1N=C(C=C1C)OCCN1CCOCC1 | C20H23N3O3
